US05382590
The procedure is analogous to that described in Example 1, but 1.45 g of (RS)-2-amino-N-[2-(2-methylpiperidino)-2-oxoethyl]-N-phenylacetamide and 0.67 g of 3-methylphenyl isocyanate used as the starting material. After recrystallization from a mixture of ethanol and diisopropyl ether (50-50 by volume), 0.80 g of (RS)-N-[2-(2-methylpiperidino)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide melting at 188° C. is obtained.

reactant | (RS)-2-amino-N-[2-(2-methylpiperidino)-2-oxoethyl]-N-phenylacetamide | 1.45 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N1C(CCCC1)C | C16H23N3O2
reactant | 3-methylphenyl isocyanate | 0.67 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | (RS)-N-[2-(2-methylpiperidino)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide | 0.80 g | CC1N(CCCC1)C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O | C24H30N4O3
